US07692005B2
To a suspension of Nitrobenzene (NB-2-A13, NB-2-A14 or NB-3-A16; 1.61 mmol) and Raney Ni (50 mg) in refluxing ethanol (10 mL) was added drop-wise anhydrous hydrazine (0.5 mL). After the addition was complete, the mixture was refluxed for an additional 20 minutes and then filtered through a pad of Celite. The Celite bed was washed with ethanol (100 mL) and the combined solution was evaporated under reduced pressure to provide pure 2-(4-aminophenyl)-acetamide (2-NB-2-A13, 2-NB-2-A14 or 2-NB-3-A16).

reactant | Nitrobenzene | 1.61 mmol | [N+](=O)([O-])C1=CC=CC=C1 | C6H5NO2
reactant | hydrazine | 0.5 mL | NN | H4N2
reactant | ethanol | 10 mL | C(C)O | C2H6O
catalyst | Ni | 50 mg | [Ni] | Ni
product | 2-(4-aminophenyl)-acetamide | NC1=CC=C(C=C1)CC(=O)N | C8H10N2O
